US05320784
To a solution of 4.0 g of 2,3,3-trimethylindolenine in 25 ml of chloroform was added 5.6 g of p-methoxybenzyl bromide and the mixture was heated in an autoclave at 80° C. for 21 hours. The resulting precipitate was recovered by filtration to give 8.5 g of 1-(4-methoxybenzyl)-2,3,3-trimethylindolenium as white crystals. To these crystals was added 85 ml of 10N aqueous potassium hydroxide solution in a nitrogen atmosphere and the mixture was heated at 50° C. for 3 hours. The reaction mixture was then extracted with ether and the extract was dried over magnesium sulfate and concentrated under reduced pressure to give 5.7 g of 3,3-dimethyl-1-(4-methoxybenzyl)-2-methyleneindoline (Yield 80.6%).

reactant | 2,3,3-trimethylindolenine | 4.0 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | p-methoxybenzyl bromide | 5.6 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | potassium hydroxide | 10N, 85 ml | [OH-].[K+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dimethyl-1-(4-methoxybenzyl)-2-methyleneindoline | 5.7 g, Yield 80.6% | CC1(C(N(C2=CC=CC=C12)CC1=CC=C(C=C1)OC)=C)C | C19H21NO
